US06416939B1
Into a flask of 500 ml capacity fitted with a stirrer and cooling tube, there were introduced 7.2 g (corresponding to 0.21 mol) of an oil dispersion of NaH, and 50 ml of tetrahydrofuran, and stirred on an ice-water bath. To this mixture there was added dropwise, a little at a time, a solution of 30.87 g (0.21 mol) of 5-methoxyindole dissolved in 100 ml of tetrahydrofuran. After completion of the dropwise addition, the ice-water bath was removed and the mixture was cooled for one hour at room temperature. Then, 49.29 g (0.21 mol) of 2-chloroethyl-p-toluene sulfonate were added, and reacted for 15 hours while stirring, heating under reflux. After completion of the reaction, the insoluble material was removed by filtration, and concentration was performed under reduced pressure. The reaction mixture was then purified by column chromatography using silica gel, to obtain 15.7 g of 1-(2-chloroethyl)-5-methoxyindole.

reactant | NaH | [H-].[Na+]
reactant | 5-methoxyindole | 0.21 mol, 30.87 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | 2-chloroethyl-p-toluene sulfonate | 0.21 mol, 49.29 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-chloroethyl)-5-methoxyindole | 15.7 g | ClCCN1C=CC2=CC(=CC=C12)OC | C11H12ClNO
